US05990133
Ethyl 5-(2,6-difluorophenyl)nicotinate (D18)
A mixture of (2,6-difluorophenyl)tributyltin (1.18 g, 2.9 mmol), ethyl 5-bromonicotinate (0.69 g, 3 mmol) and tetrakis (triphenylphosphine) palladium (0) (0.10 g) in xylene (10 mL) was heated under reflux for 24 h, then cooled, filtered and evaporated. The residue was chromatographed on silica gel eluted with 20% ethyl acetate/petrol to give the title compound (0.64 g, 84%).

reactant | (2,6-difluorophenyl)tributyltin | 2.9 mmol, 1.18 g | FC1=C(C(=CC=C1)F)[Sn](CCCC)(CCCC)CCCC
reactant | ethyl 5-bromonicotinate | 3 mmol, 0.69 g | BrC=1C=NC=C(C(=O)OCC)C1 | C8H8BrNO2
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.10 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Ethyl 5-(2,6-difluorophenyl)nicotinate | 0.64 g, 84% | FC1=C(C(=CC=C1)F)C=1C=NC=C(C(=O)OCC)C1 | C14H11F2NO2
